* source BBCIRCUIT_SIMULATION
R_R1         N00240 N00244  0.01 TC=0,0 
Q_Q1         N00219 N00330 N00244 Q2SA1213/ZTX 
Q_Q3         N00231 N00219 N00330 Q2SA1213/ZTX 
Q_Q4         N00219 N00523 N00397 Q2N1893
Q_Q5         N00219 N00231 N00393 Q2N1893
Q_Q6         N00231 N00231 N00389 Q2N1893
Q_Q8         N00523 N00487 0 Q2N1893
R_R2         N00523 N00240  100k TC=0,0 
R_R3         N00284 N00330  2k TC=0,0 
R_R4         0 N00389  20k TC=0,0 
R_R5         0 N00393  18k TC=0,0 
R_R6         0 N00397  4.7k TC=0,0 
R_R7         0 N00487  4.7k TC=0,0 
R_load         0 N00244  {LOAD} TC=0,0 
V_V1         N00240 0 {BAT}
R_R8         0 N00389  1900k TC=0,0 
Q_Q7         N00284 N00523 N00487 Q2N1893
Q_Q2         N00284 N00284 N00240 Q2SA1213/ZTX 
.PARAM  load=2 bat=24
